US07858646B2
Synthesis of 2-(3-hydroxymethyl-phenylsulfanyl)-isonicotinonitrile
Dissolve 3-(4-cyano-pyridin-2-ylsulfanyl)-benzoic acid (920 mg, 3.59 mmol) in thionyl chloride (50 mL) and stir. Heat to reflux. After 2 hours, concentrate under reduced pressure to give a residue. Dissolve residue in dioxane (100 mL) and add sodium borohydride (1.36 g, 35.9 mmol). Heat to 50° C. After 2 hours, cool to ambient temperature and add water. Extract with ethyl acetate, combine organic layers, dry with sodium sulfate, filter and concentrate to give the title compound as a yellow oil (378 mg, 44%): 1H NMR (DMSO-d6) δ 4.56 (d, 2H), 5.31 (t, 1H), 7.38 (m, 1H), 7.48 (m, 3H), 7.55 (m, 1H), 7.59 (dd, 1H), 8.62 (dd, 1H).

reactant | 3-(4-cyano-pyridin-2-ylsulfanyl)-benzoic acid | 3.59 mmol, 920 mg | C(#N)C1=CC(=NC=C1)SC=1C=C(C(=O)O)C=CC1 | C13H8N2O2S
reactant | sodium borohydride | 35.9 mmol, 1.36 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | thionyl chloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 2-(3-hydroxymethyl-phenylsulfanyl)-isonicotinonitrile | 378 mg, 44% | OCC=1C=C(C=CC1)SC=1C=C(C#N)C=CN1 | C13H10N2OS
